reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]=[C:3]=[C:4]=[C:5]([H:8])[H:9])([H:6])[H:7],81.335433114333
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1](=[C:2]([C@@:3]1([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13])[H:9])([H:7])[H:8],81.7041268369895
[C+:2](=[C:3]([O-:4])[N:5]([H:11])[H:12])[H:9].[C:1]([H:6])([H:7])([H:8])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],7.677035893229586
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]=[C:4]=[N:5][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:13],58.621004976822604
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:8])=[C:3]1[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12],61.001759510365105
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([N+:6]#[C-:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],58.6286857393419
[C:1]([N:2]([C:3](=[O:4])[O+:6]=[C-:5][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],20.49362245156761
[C:1]([O+:3]=[C-:2][N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],50.875706466074405
[C:1]([N:2]([H:10])[H:11])([N:5]=[C:4]=[C:3]([C:6]#[N:7])[H:12])([H:8])[H:9]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],77.44340478188008
[C:1]([N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9].[N:2]#[C:3][H:10]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],98.51608053514151
[C:1]([O:2][C:3]([O:7]/[C:6](=[C:4](\[C:5]([H:14])([H:15])[H:16])[H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],61.831760760995394
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3][C@:4]1([C:5]([H:11])([H:12])[H:13])[H:6]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],39.1029854575213
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:10])[H:16],72.9250166875336
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])[H:9].[O:3]([H:8])[H:11],68.4324521962846
[C:1]([C:2]([O:3][C@@:4]1([H:14])[O:5][C:6]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],67.05279972899149
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2]([H:8])[H:10])[H:7].[O:3]=[C:4]([C:5](=[O:6])[H:11])[H:9],94.56594101248241
[O:1]=[C:2]1[O:3][C:4]([H:8])([H:9])[C-:5]=[N+:6]1[H:7]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],66.8690821845941
[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[C:3](=[O:4])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13].[H:8][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],42.78078473321769
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:12])=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10].[C:6]=[N:7][H:11],101.984073495711
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])([O:6][H:16])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])[H:12],115.54637663139098
[C:1](=[C:2]=[C:3]=[C:4]=[O:5])([H:8])[H:10].[C:6](#[C:7][H:11])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],46.38627445439009
[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[N:6]([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],25.91797394844869
[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O+:6]=[C:5]([N:4]([C-:3]([H:8])[H:9])[H:10])[H:11])[H:7],68.0428984049323
[C:1]([C:2]([C:3]([O+:4]=[C-:5][H:12])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:13]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]1([H:12])[H:13],19.180383807604592
[C:1]([C@@:2]1([H:11])[O:3][C:4]1([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:12])[H:17])([H:15])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],52.881703770488095
